US05102877
A solution of (2R,3R)-1,2-bis(benzyloxycarbonylamino)-3-hydroxybutane (80.5 g) in methanol (800 ml) was hydrogenated under atmospheric pressure of hydrogen over palladium on carbon (10%, 8 g) for 5 hours at ambient temperature. The catalyst was filtered off and the filtrate was concentrated under reduced pressure to give a syrup. To a solution of the syrup in a mixture of water (400 ml) and tetrahydrofuran (400 ml) in tetrahydrofuran (90 ml) under ice-cooling with stirring, keeping the pH between 8.5 and 9.5 with 4N aqueous sodium hydroxide. After stirring for one hour, the mixture was extracted with ethyl acetate (800 ml), washed with brine (400 ml), dried over magnesium sulfate, and concentrated under reduced pressure to give a syrup. The syrup was subjected to a column chromatography on silica gel (600 g) and eluted with a mixture of methanol and chloroform (1:99, V/V) to give (2R,3R)-1,2-bis(allyloxycarbonylamino)-3-hydroxybutane (41.78 g) as a syrup.

reactant | (2R,3R)-1,2-bis(benzyloxycarbonylamino)-3-hydroxybutane | 80.5 g | C(C1=CC=CC=C1)OC(=O)NC[C@H]([C@@H](C)O)NC(=O)OCC1=CC=CC=C1 | C20H24N2O5
reactant | hydrogen | [H][H] | H2
reactant | sodium hydroxide | 4N | [OH-].[Na+]
solvent | methanol | 800 ml | CO | CH4O
catalyst | palladium on carbon | 8 g | [Pd] | Pd
solvent | water | 400 ml | O | H2O
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
product | (2R,3R)-1,2-bis(allyloxycarbonylamino)-3-hydroxybutane | 41.78 g | C(C=C)OC(=O)NC[C@H]([C@@H](C)O)NC(=O)OCC=C | C12H20N2O5
